US07115624B1
To a solution of 1,4-dioxa-8-aza-spiro[4,5]decane (51.5 g, 0.36 moles) in a mixture of dichloromethane (500 ml) and saturated sodium bicarbonate (500 ml) was added di-tert-butyldicarbonate (69.8 g, 0.32 moles) and the reaction was vigorously stirred for 3 hours and the layers separated. The organic layer was washed with 1N hydrochloric acid (2×150 ml), brine (100 ml), dried (MgSO4), filtered and the solvent evaporated in vacuo affording 75.5 g (97%) of 1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester as a crystallizing oil.

reactant | 1,4-dioxa-8-aza-spiro[4,5]decane | 0.36 moles, 51.5 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
reactant | di-tert-butyldicarbonate | 0.32 moles, 69.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 75.5 g, 97% | C(C)(C)(C)OC(=O)N1CCC2(OCCO2)CC1 | C12H21NO4
